US08026257B2
3-Cyclopropyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole.
tert-Butyl 4-(((3-cyclopropyl-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (18 mg, 0.03 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 4 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was evaporated to afford 9 mg (77%) as a clear oil. 1H-NMR (CDCl3, 500 MHz) δ 7.92 (s, 1H), 7.31-7.45 (m, 5H), 7.22-7.33 (m, 1H), 4.67 (s, 2H), 3.52 (s, 2H), 2.95-2.99 (m, 2H), 2.76-2.81 (m, 2H), 2.15-2.24 (m, 3H), 1.89-1.95 (m, 2H), 1.04-1.02 (m, 4H). Mass spec.: 430.16 (MH)+. Accurate mass spec.: m/z 430.2097 [MH]+, Δ=2.1 ppm.

reactant | tert-Butyl 4-(((3-cyclopropyl-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.03 mmol, 18 mg | C1(CC1)C=1N(N=C2C(=CC(=CC12)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C35H48F3N3O4Si
reactant | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 3-Cyclopropyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole | C1(CC1)C1=NNC2=C(C=C(C=C12)C(F)(F)F)COCC1(CCNCC1)C1=CC=CC=C1 | C24H26F3N3O
